US04906621
A solution of 5.16 g of ethyl 4-(hydroxymethyl)-piperidine-2-carboxylate and 6.33 g di-tert-butyl dicarbonate in 100 ml of methylene chloride is stirred at room temperature for 18 hours. The solution is concentrated in vacuo to yield ethyl 1-(tert-butoxycarbonyl)-4-(hydroxymethyl)-piperidine-2-carboxylate.

reactant | ethyl 4-(hydroxymethyl)-piperidine-2-carboxylate | 5.16 g | OCC1CC(NCC1)C(=O)OCC | C9H17NO3
reactant | di-tert-butyl dicarbonate | 6.33 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 1-(tert-butoxycarbonyl)-4-(hydroxymethyl)-piperidine-2-carboxylate | C(C)(C)(C)OC(=O)N1C(CC(CC1)CO)C(=O)OCC | C14H25NO5
